US06194406B1
4-(1-(4-Oxopentyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt
Combine 1-(t-butoxycarbonyl)-4-(1-(4-oxopentyl)-1H-benzimidazol-2-yl)[1,4]diazepane, ethylene ketal (0.9 g, 2.0 mmol) and dichloromethane (20 mL). Cool in an ice bath and add hydriodic acid (0.53 mL, 57%, 4.05 mmol). Warm to ambient temperature. After 0.5 hours, add water (0.5 mL) and heat to reflux. After 18 hours, cool to ambient temperature and evaporate in vacuo to give a residue. Combine the residue and methanol (45 mL) and add diethyl ether (250 mL) with stirring to give a solid. After 30 minutes, collect the solid by filtration to give, after drying the title compound. Elemental Analysis calculated for C17H24N4O.2 HI: C 36.71; H 4.71; N 10.07; Found: C 36.94; H 4.47; N 9.84.

reactant | 1-(t-butoxycarbonyl)-4-(1-(4-oxopentyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCC(C)=O)C=CC=C2 | C22H32N4O3
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | hydriodic acid | 4.05 mmol, 0.53 mL | I | HI
reactant | water | 0.5 mL | O | H2O
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | methanol | 45 mL | CO | CH4O
product | 4-(1-(4-Oxopentyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt | I.O=C(CCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2)C | InChI=1S/C17H24N4O.HI/c1-14(22)6-4-12-21-16-8-3-2-7-15(16)19-17(21)20-11-5-9-18-10-13-20;/h2-3,7-8,18H,4-6,9-13H2,1H3;1H
